US05672616
b) Methyl 3-(2-chlorothiophenoxymethyl)-thien-2-ylglyoxylate
2.62 g (19 mmol) of potassium carbonate and 2.74 g (19 mmol) of 2-chlorothiophenol are added to a solution of 5 g (19 mmol) of methyl 3-bromomethylthien-2-ylglyoxylate in 50 ml of acetone, the mixture is stirred for 72 hours at room temperature and filtered and the filtrate is evaporated down. The residue is taken up in methylene chloride, and the solution is washed with Na2CO3 solution, dried and evaporated down. The crude product is recrystallized from methanol. 4.24 g (68%) of the abovementioned compound are obtained.

reactant | potassium carbonate | 19 mmol, 2.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorothiophenol | 19 mmol, 2.74 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | methyl 3-bromomethylthien-2-ylglyoxylate | 19 mmol, 5 g | BrCC1=C(SC=C1)C(C(=O)OC)=O | C8H7BrO3S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Methyl 3-(2-chlorothiophenoxymethyl)-thien-2-ylglyoxylate | 4.24 g, 68% | ClC1=C(SCC2=C(SC=C2)C(C(=O)OC)=O)C=CC=C1 | C14H11ClO3S2
